US07253282B2
A solution of 10 g (38.6 mmol) of 2-(4-amino-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol in 100 mL of DMF was treated with 6.3 mL (42.4 mmol) of DBU and then dropwise with 6.5 mL (38.6 mmol) of TESCl. After stirring the mixture at RT overnight the solvent was partially evaporated i.v. Distribution of the crude mixture between a diluted aqueous solution of NaOH and Et2O and drying of the combined organic phases over Na2SO4 gave 13 g (90%) of 4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenylamine as a colorless oil, MS: 374 (M+H)+.

reactant | 2-(4-amino-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 38.6 mmol, 10 g | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
reactant | DBU | 42.4 mmol, 6.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | TESCl | 38.6 mmol, 6.5 mL | [Si](CC)(CC)(CC)Cl | C6H15ClSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenylamine | 13 g, 90% | FC(C(C(F)(F)F)(O[Si](CC)(CC)CC)C1=CC=C(C=C1)N)(F)F | C15H21F6NOSi
